US07390818B2
A) Methyl (3,5-difluorophenyl)acetate
A solution comprising 25 ml of acetyl chloride in 250 ml of methanol is prepared at 0° C., then, at ambient temperature, 25.5 g of 3,5-difluorophenylacetic acid are dissolved in this solution and the solution is left stirring at AT. The reaction is monitored by thin layer chromatography. After the starting material has disappeared, the medium is evaporated under reduced pressure and then the residue is dissolved in 250 ml of MTBE. The organic phase is washed three times with 100 ml of water, dried over MgSO4 and then evaporated to dryness under reduced pressure. 26.9 g of the expected compound are obtained.

reactant | acetyl chloride | 25 ml | C(C)(=O)Cl | C2H3ClO
reactant | 3,5-difluorophenylacetic acid | 25.5 g | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
solvent | methanol | 250 ml | CO | CH4O
product | Methyl (3,5-difluorophenyl)acetate | 26.9 g | FC=1C=C(C=C(C1)F)CC(=O)OC | C9H8F2O2
